US05284842
a) 1-Benzyl-3-tert.-butoxycarbonylaminomethyl-3-hydroxypyrrolidine
3.2 g (80 mmol) of NaOH are dissolved in 40 ml of water, 15.6 g (75 mmol) of 3-aminomethyl-1-benzyl-3-hydroxypyrrolidine and 50 ml of tert.-butanol are added and 17.7 g (79 mmol) of di-tert.-butyl dicarbonate are added dropwise at room temperature. After stirring overnight at room temperature, the product is filtered off with suction, the crystals are washed with CH2Cl2 and the filtrate is extracted using CH2Cl2. The extracts are dried over K2CO3 and concentrated, and the residue is recrystallized from diisopropyl ether.

reactant | NaOH | 80 mmol, 3.2 g | [OH-].[Na+]
reactant | 3-aminomethyl-1-benzyl-3-hydroxypyrrolidine | 75 mmol, 15.6 g | NCC1(CN(CC1)CC1=CC=CC=C1)O | C12H18N2O
reactant | tert.-butanol | 50 ml | C(C)(C)(C)O | C4H10O
reactant | di-tert.-butyl dicarbonate | 79 mmol, 17.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 40 ml | O | H2O
product | 1-Benzyl-3-tert.-butoxycarbonylaminomethyl-3-hydroxypyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)(O)CNC(=O)OC(C)(C)C | C17H26N2O3
